*****************************************************************
******STMicroelectronics MOSFET, IGBT and Bipolar Library *******
*****************************************************************
*																*
* Models provided by STMicroelectronics are not guaranteed to   *
* fully represent all the specifications and operating			*
* characteristics of the product behavior that they reproduce.  *
* The model describes the characteristics of a typical device.  *
* In all cases, the current product data sheet contains all     *
* information to be used like final design guidelines and the   *
* only actual performance specification.                        *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions.												*
* STMicroelectronics therefore does not assume any              *
* responsibility arising from their use.                        *
* STMicroelectronics reserves the right to change models        *
* without prior notice.                                         *
*                                                               *
*****************************************************************
 
.SUBCKT BD140 1 2 3

RB 2 5 1E-06
RC 1 4 1E-06
RE 3 6 1E-06

Q1 4 5 6 Q
 .model BD140 PNP(Is = 0.188E-16 Bf = 201.325 Vaf   = 39.764 Ikf   = 0.521 Ise   = 0.447E-15 Ne    = 2.771 Br    = 0.671E-01 Var   = 131.148 Ikr   = 0.494 Isc   = 0.921E-12 Nc    = 1.674 Nk    = 0.515 Rb    = 0.572E-01 Rbm   = 0.335E-02 Nf    = 0.981 Re    = 0.185E-02 Rc    = 0.127 Qco   = 0.214E-09 Rco   = 1.681 Vo    = 10.359 Gamma = 0.579E-10 Cjc   = 0.469E-12 Vjc   = 0.715 Mjc   = 0.313 Cje   = 0.297E-12 Vje   = 0.735 Mje   = 0.384 Fc    = 0.526 Tr    = 0.129E-07 Tf    = 0.849E-10 Itf   = 0.332 Vtf   = 6.784 Xtf   = 0.505)